US07897631B2
As in the synthesis of N-(2-azidoethyl)tetradecanamide, 4-tert-butylbenzoyl chloride (0.244 g, 1.23 mmol) was reacted with 2-azidoethanamine (0.106 g, 1.23 mmol) and triethylamine (0.249 g, 2.47 mmol) in dichloromethane (5 mL) to give N-(2-azidoethyl)-4-tert-butylbenzamide (0.221 g, 73%). 1H NMR (300 MHz, CDCl3) δ 7.73 (d, 2H), δ 7.43 (d, 2H), δ 6.95 (t, 1H), δ 3.59 (q, 2H), δ 3.50 (t, 2H), δ 1.31 (s, 9H) ppm; 13C NMR (75 MHz, CDCl3) δ 168.2, 155.4, 131.4, 127.2, 125.8, 51.1, 39.7, 35.2, 31.4 ppm; HRMS (ESI) calcd for C13H18N4O (M+) 246.1480. found 246.1479.

reactant | N-(2-azidoethyl)tetradecanamide | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
reactant | 4-tert-butylbenzoyl chloride | 1.23 mmol, 0.244 g | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
reactant | 2-azidoethanamine | 1.23 mmol, 0.106 g | N(=[N+]=[N-])CCN | C2H6N4
reactant | triethylamine | 2.47 mmol, 0.249 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-azidoethyl)-4-tert-butylbenzamide | 0.221 g, 73% | N(=[N+]=[N-])CCNC(C1=CC=C(C=C1)C(C)(C)C)=O | C13H18N4O
